US04102891
150 g (0.5 mole) of 1-(2-[4"-chloro-4'-biphenylyl]-2-hydroxy-ethyl)-1,2,4-triazole were dissolved in 2 liters of chloroform and heated to the boil, while stirring. 90g (0.75 mole) of thionyl chloride were slowly added dropwise thereto. The reaction mixture was heated for 12 hours under reflux and after cooling, 1.5 liters of toluene were added. The hydrochloride of 1-(2-chloro-2-[4'(4"-chlorophenyl)-phenyl]-ethyl)-1,2,4-triazole, which thereupon precipitated, was filtered off and taken up in 2 liters of water. The free base was obtained by adding sodium bicarbonate, and was taken up in chloroform. After drying over sodium sulfate, the solvent was distilled off and the residue soldified to crystals. 148 g (92% of theory) of 1-(2-chloro-2-[4"-chloro-4'-biphenylyl]ethyl)-1,2,4-triazole of melting point 118° C. were obtained.

reactant | 1-(2-[4"-chloro-4'-biphenylyl]-2-hydroxy-ethyl)-1,2,4-triazole | 0.5 mole, 150 g | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(CN1N=CN=C1)O | C16H14ClN3O
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | toluene | 1.5 liters | C1(=CC=CC=C1)C | C7H8
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 2 liters | C(Cl)(Cl)Cl | CHCl3
product | 1-(2-chloro-2-[4"-chloro-4'-biphenylyl]ethyl)-1,2,4-triazole | 148 g, 92% | ClC(CN1N=CN=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)Cl | C16H13Cl2N3
